US05741819
Preparation of 3-[(phenylsulfonyl)amino]-N-[3-quinuclidinyl]benzamide (34)
3-(Phenylsulfonyl)aminobenzoic acid as prepared in Example 9 (139 mg, 0.5 mmol), Castro's reagent (benzotriazole-1-yloxytris(dimethylaminophosphonium hexafluorophosphate) (221 mg, 0.5 mmol), 3-aminoquinuclidine hydrochloride (100 mg, 0.5 mmol) and N,N-diisopropylethylamine (0.5 mL) were dissolved in dry DMF (2 mL) and the reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with saturated NaHCO3 and extracted with ethyl acetate (3×). The combined ethyl acetate was washed with brine and dried over Na2SO4. After evaporation, the residue was purified by silica gel chromatography using 86% methylene chloride and 14% methanol containing 0.25 mL of acetic acid to give 65 mg (34% yield). 1H-NMR (300 MHz; DMSO-d6): d 1.69-2.14 (m,5H), 3.07-3.35 (m,6H), 3.63 (t, 1H, J=12 Hz), 4.22 (m, 1H), 7.23-7.77 (m, 9H), 8.53 (d, 1H, J=6 Hz). Mass spectrum (MALDI-TOF) calcd. for C20H23N3 O3S: 386.2 (M+H), Found: 386.2.

reactant | 3-(Phenylsulfonyl)aminobenzoic acid | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=O)O)C=CC1 | C13H11NO4S
reactant | Castro's reagent | CN(C)[P+](N(C)C)(N(C)C)ON1C2=CC=CC=C2N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-aminoquinuclidine hydrochloride | 0.5 mmol, 100 mg | Cl.NC1CN2CCC1CC2
reactant | N,N-diisopropylethylamine | 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-[(phenylsulfonyl)amino]-N-[3-quinuclidinyl]benzamide | 34% yield | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C(C(=O)NC2CN3CCC2CC3)C=CC1 | C20H23N3O3S
